US07176210B2
Preparation of Intermediate 2-(2-Chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-7-ol (I-1A-3f)
To a solution of 5-(2-chlorophenyl)-2H-pyrazol-3-ylamine (I-1A-1a; 1.51 g, 7.80 mmol) in acetic acid (10 ml) was added ethyl acetoacetate (1.1 ml, 8.6 mmol). The reaction was heated at reflux for 17 hours. Upon cooling to room temperature a solid precipitate formed which, after standing for 2 days, was isolated by vacuum filtration and washed with additional acetic acid. The solids were stirred in ether and then isolated by vacuum filtration to afford I-1A-3f as a colorless solid (1.52 g, 75%): +ESI MS (M+1) 260.2; 1H NMR (400 MHz, DMSO-d6) δ 12.18 (br s, 1H), 7.85–7.81 (m, 1H), 7.57–7.54 (m, 1H), 7.46–7.41 (m, 2H), 6.49 (s, 1H), 5.61 (s, 1H), 2.29 (s, 3H).

reactant | 5-(2-chlorophenyl)-2H-pyrazol-3-ylamine | 7.80 mmol, 1.51 g | ClC1=C(C=CC=C1)C=1C=C(NN1)N | C9H8ClN3
reactant | ethyl acetoacetate | 8.6 mmol, 1.1 ml | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-(2-Chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidin-7-ol | 1.52 g, 75% | ClC1=C(C=CC=C1)C1=NN2C(N=C(C=C2O)C)=C1 | C13H10ClN3O
